US09284333B2
A solution of 7-bromo-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide (Comp. No. 16ru) (55 mg, 0.101 mmol), tetramethylstannane (101 mg, 0.57 mmol) and tetrakis(triphenylphosphino)palladium(0) (6 mg, 5 pmol) in dimethylformamide (2 ml) was heated at 110° C. under microwave irradiation for 1 h. The crude product was purified by reverse phase HPLC to give 45 mg (92%) of 7-methyl-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide. LC/MS (method 3): Rt=1.85 min; m/z=479.32 (M+H+).

reactant | 7-bromo-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide | FC(C1=CC=C(C=N1)[C@@H](CC)NC(=O)C=1C(=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)Br)(F)F | C23H26BrF3N4O3
reactant | tetramethylstannane | 0.57 mmol, 101 mg | C[Sn](C)(C)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphino)palladium(0) | 5 pmol, 6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-methyl-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide | 45 mg, 92% | FC(C1=CC=C(C=N1)[C@@H](CC)NC(=O)C=1C(=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)C)(F)F | C24H29F3N4O3
